US04086278
Lithium (1.61 g., 0.234 eq.) cut into small pieces is added to 150 ml. of dry liquid ammonia with stirring. After 5 minutes, 100 ml. of dry ether is added followed by the dropwise addition of 1-ethylthio-1-heptene (18.6 g., 0.117 moles). At the end of the addition, the blue color of the solution disappears and the reaction mixture is a white milky suspension. Ammonium chloride (6.26 g., 0.117 moles) is added cautiously followed by 1-bromo-2,3-propanediol (19.9 g., 0.128 moles). After stirring for 30 minutes, the ammonia is allowed to evaporate and water and ether are added to the residue. The aqueous layer is extracted once with ether and the ether extracts are combined and dried over MgSO4. The residue obtained after concentration of the ether is distilled (bp 129°-133° C, 0.15 mm.) to afford 6 g. of a yellow liquid. The liquid is further purified by column chromatography on SilicAR, CC-7, eluting with acetone:chloroform (1:5) to afford 3-(1-heptenylthio)-1,2-propanediol as a colorless liquid (5.7 g., 23.9%); nD24.1 1.5091.

reactant | Lithium | 1.61 g, 0.234 eq. | [Li] | Li
reactant | ammonia | N | H3N
reactant | 1-ethylthio-1-heptene | 0.117 moles, 18.6 g | C(C)SC=CCCCCC | C9H18S
reactant | Ammonium chloride | 0.117 moles, 6.26 g | [Cl-].[NH4+]
reactant | 1-bromo-2,3-propanediol | 0.128 moles, 19.9 g | BrCC(CO)O | C3H7BrO2
solvent | ether | CCOCC | C4H10O
product | 3-(1-heptenylthio)-1,2-propanediol | C(=CCCCCC)SCC(CO)O | C10H20O2S
